US05250678
B. 17-Ethyl-1-hydroxy-12-[2'-(4"-hydroxy-3"-(4'"-methylphenyloxy)cyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethy-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
Prepared essentially as described in Example 2 from 17-ethyl-1-hydroxy-12-[2'-(3",4"-dihydroxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos- 18-ene-2,3,10,16-tetraone using tri-(p-methylphenyl) bismuth diacetate as the alkylating agent.

reactant | 17-ethyl-1-hydroxy-12-[2'-(3",4"-dihydroxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos- 18-ene-2,3,10,16-tetraone | C(C)C1C(CCC(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)O)C)C)=O | C42H67NO11
reactant | tri-(p-methylphenyl) bismuth diacetate | C(C)(=O)O.C(C)(=O)O.CC1=CC=C(C=C1)[Bi](C1=CC=C(C=C1)C)C1=CC=C(C=C1)C
product | 17-Ethyl-1-hydroxy-12-[2'-(4"-hydroxy-3"-(4'"-methylphenyloxy)cyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethy-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | C(C)C1C(CCC(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC2=CC=C(C=C2)C)C)C)=O | C49H73NO11
